US09126981B2
Synthesis of (S)-2-amino-N-benzyl-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)propanamide (Compound IV-13)
According to the procedure described in the synthesis method of Compound IV-1, (S)-(9H-fluoren-9-yl)methyl 1-(benzyl(2,2-diethoxyethyl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylcarbamate (Compound III-13) (3.22 g, 4.8 mmol) was treated with piperidine and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=9:1, chloroform:methanol=100:0 and 8:2) to obtain the title compound (2.26 g, 106%).

reactant | (S)-(9H-fluoren-9-yl)methyl 1-(benzyl(2,2-diethoxyethyl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylcarbamate | 4.8 mmol, 3.22 g | C(C1=CC=CC=C1)N(C([C@H](CC1=CC=C(C=C1)OC(C)(C)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)CC(OCC)OCC | C41H48N2O6
reactant | piperidine | N1CCCCC1 | C5H11N
product | (S)-2-amino-N-benzyl-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)propanamide | 2.26 g, 106% | N[C@H](C(=O)N(CC(OCC)OCC)CC1=CC=CC=C1)CC1=CC=C(C=C1)OC(C)(C)C | C26H38N2O4
